US05089504
3-Butyryl-4-(2-methylphenylamino)8-hydroxyquinoline (3.2 g, 10 mmol) was dissolved in tetrahydrofuran (150 ml), potassium t-butoxide (1.83 g, 15 mmol) added, stirred to dissolve, then 2-chloroethanol (1.3 ml, 20 mmol) added and the mixture heated at reflux overnight. A further portion of potassium t-butoxide (1.83 g) and of 2-chloroethanol (1.3 ml) was added and heating continued for 2 days. The tetrahydrofuran was evaporated, the residue taken up in dichloromethane, washed with water and brine, dried and evaporated. Recrystallization from ethyl acetate/petroleum ether gave 3-butyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline (1.18 g, 32%), m.p. 125°-127°.

reactant | 3-Butyryl-4-(2-methylphenylamino)8-hydroxyquinoline | 10 mmol, 3.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C20H20N2O2
reactant | potassium t-butoxide | 15 mmol, 1.83 g | CC(C)([O-])C.[K+]
reactant | 2-chloroethanol | 20 mmol, 1.3 ml | ClCCO | C2H5ClO
reactant | potassium t-butoxide | 1.83 g | CC(C)([O-])C.[K+]
reactant | 2-chloroethanol | 1.3 ml | ClCCO | C2H5ClO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-butyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline | 1.18 g, 32% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCO | C22H24N2O3
